US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(3,5-dichloro-4-methoxy-phenyloxy)-ethyl]-methylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane, N-[2-(3,5-dichloro-4-methoxy-phenyloxy)-ethyl]-methylamine and triethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-[2-(3,5-dichloro-4-methoxy-phenyloxy)-ethyl]-methylamine | ClC=1C=C(C=C(C1OC)Cl)OCCNC | C10H13Cl2NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[2-(3,5-dichloro-4-methoxy-phenyloxy)-ethyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCOC2=CC(=C(C(=C2)Cl)OC)Cl)C)=O)C=C1OC | C25H32Cl2N2O5
